US03968240
A. Preparation of α-Chloro-3-Nitrobenzaldoxime
32.9 g (0.2 mol) of 3-nitrobenzaldoxime was suspended in 150 g of chloroform and chlorine gas was bubbled into the suspension while maintaining the reaction mixture at a temperature of from 5° to 10°C. 3-Nitrobenzaldoxime went into solution showing a green color upon reaction with chlorine to give a reaction mixture having a deep green color. The reaction mixture turned a pale yellowish-brown upon standing; chloroform was then removed from the reaction mixture under reduced pressure to give 37.6 g of pale yellow crystals having a melting point of 98°-101°C. Yield, 94%.

reactant | 3-nitrobenzaldoxime | 0.2 mol, 32.9 g | [N+](=O)([O-])C=1C=C(C=NO)C=CC1 | C7H6N2O3
reactant | chloroform | 150 g | C(Cl)(Cl)Cl | CHCl3
product | α-Chloro-3-Nitrobenzaldoxime | 37.6 g | ClC(C1=CC(=CC=C1)[N+](=O)[O-])=NO | C7H5ClN2O3
